US08471005B2
7-(2,2-Difluoro-benzo[1,3]dioxol-4-yl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.435 g, 1.35 mmol) and Sodium Tungstate Dihydrate (59 mg, 0.18 mmol) were suspended in Methanol (15.0 mL), then 50% Hydrogen Peroxide (0.350 mL, 6.16 mmol) was added. The mixture was then heated at 55° C. overnight. A solution of sodium thiosulfate was added, stirred 10 min, then cooled to rt. The product was collected by filtration, washing the yellow solids with 1:1 MeOH:H2O (10 mL). After drying on the Buchner funnel, 7-(2,2-Difluoro-benzo[1,3]dioxol-4-yl)-2-methanesulfonyl-pyrrolo[2,1-f][1,2,4]triazine (0.410 g; Yield=85.7%). LCMS (HPLC): 1.15 min, m/z=354 (M+H); 1H-NMR (DMSO-d6): 9.51 (s, 1H), 8.16 (d, 1H, J=8.1 Hz), 7.73 (d, 1H, J=4.8 Hz), 7.56 (d, 1H, J=7.7 Hz), 7.49 (d, 1H, J=4.8 Hz), 7.45 (m, 1H), 3.45 (s, 3H).

reactant | 7-(2,2-Difluoro-benzo[1,3]dioxol-4-yl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 1.35 mmol, 0.435 g | FC1(OC2=C(O1)C=CC=C2C2=CC=C1C=NC(=NN12)SC)F | C14H9F2N3O2S
reactant | Hydrogen Peroxide | 6.16 mmol, 0.350 mL | OO | H2O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | Methanol | 15.0 mL | CO | CH4O
catalyst | Sodium Tungstate Dihydrate | 0.18 mmol, 59 mg | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 7-(2,2-Difluoro-benzo[1,3]dioxol-4-yl)-2-methanesulfonyl-pyrrolo[2,1-f][1,2,4]triazine | 0.410 g, Yield=85.7% | FC1(OC2=C(O1)C=CC=C2C2=CC=C1C=NC(=NN12)S(=O)(=O)C)F | C14H9F2N3O4S
